US08076481B2
Preparation of (1R)-2-methoxy-1-methylethyl 4-methylbenzenesulfonate
To a flask was added under a nitrogen atmosphere trimethylamine hydrochloride (0.1 eq), tosyl chloride (1.3 eq) and toluene (5 vols) and the reaction mixture agitated to form an oily slurry. The slurry was cooled to −5° C. (2R)-1-Methoxypropan-2-ol (1.0 eq) was added drop-wise over 30 minutes. Toluene (2.5 vols) was added as a wash followed by triethylamine (1.5 eq), which was added drop-wise via addition funnel over 30 minutes maintaining the reaction temperature <8° C. Further toluene (2.5 vols) was added as a wash and the reaction mixture held at −5° C. to 5° C. for 4.5 hours. N,N-Dimethyl-1,3-propane-diamine (0.3 eq) was added over 10 minutes at −5° C. The mixture was agitated at −5° C. to 5° C. for 30 minutes. Then 2N hydrochloric acid (0.55 eq) and 70 ml water were added. The mixture was agitated for 30 minutes at 22° C. and the aqueous layer was separated off and discarded. The mixture was washed twice more with water (10 vols each wash) and after separation of the aqueous wash, the toluene layer was distilled to an oil on the rotary evaporator. Toluene (20 vols) was added to the oil and the solution evaporated to give the title compound as a dry light brown oil. Yield (corrected for assay) 93-97%. 1H NMR (400 MHz CDCl3): δ 7.78-7.75 (d, 2H), 7.45-7.43 (d, 2H), 4.66-4.62 (m, 1H), 3.35-3.26 (m, 2H), 3.16 (s, 3H), 2.4 (s, 3H), 1.13-1.11 (d, 3H)

reactant | trimethylamine hydrochloride | 0.1 eq | Cl.CN(C)C
reactant | tosyl chloride | 1.3 eq | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | (2R)-1-Methoxypropan-2-ol | 1.0 eq | COC[C@@H](C)O | C4H10O2
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | N,N-Dimethyl-1,3-propane-diamine | 0.3 eq | CN(CCCN)C | C5H14N2
reactant | hydrochloric acid | 2N, 0.55 eq | Cl | ClH
solvent | water | 70 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1R)-2-methoxy-1-methylethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](COC)C | C11H16O4S
